US06313312B1
N-(3-{6-Methyl-3-[(E)-3-(3-thienyl)-2-propenoyl]-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide
To a solution of (E)-3-(3-thienyl)-2-propenoic acid (200 mg, 1.08 nmmol) in N,N-dimethylformamide (20 ml) was added 1-hydroxybenzotriazole monohydrate (225 mg, 1.47 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (328 mg, 1.71 mmol). After stirring at room temperature for 10 min, the mixture was treated with the hydrochloride salt of N-[3-(6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl]methanesulfonamide (Preparation 53, 449 mg, 1.48 mmol) and sodium hydrogen carbonate (225 mg, 2.68 mmol). The reaction mixture was stirred at room temperature for 7 d and then concentrated in vacuo. Attempted partition between water (10 ml) and ethyl acetate (15 ml) produced a buff solid which was collected by filtration. Sonication for 5 min at room temperature in dichloromethane (5 ml) followed by filtration afforded the title compound as an off-white solid (430 mg, 72%).

reactant | (E)-3-(3-thienyl)-2-propenoic acid | 200 mg | S1C=C(C=C1)/C=C/C(=O)O | C7H6O2S
reactant | 1-hydroxybenzotriazole monohydrate | 1.47 mmol, 225 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.71 mmol, 328 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-[3-(6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl]methanesulfonamide | 1.48 mmol, 449 mg | CC1(C2CNCC12)C=1C=C(C=CC1)NS(=O)(=O)C | C13H18N2O2S
reactant | sodium hydrogen carbonate | 2.68 mmol, 225 mg | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-(3-{6-Methyl-3-[(E)-3-(3-thienyl)-2-propenoyl]-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide | 430 mg, 72% | CC1(C2CN(CC12)C(\C=C\C1=CSC=C1)=O)C=1C=C(C=CC1)NS(=O)(=O)C | C20H22N2O3S2
